US20010027196A1
4-Furan-2-yl-6-(2-pyridin-2-yl-ethylsulfanyl)-pyrimidin-2-yl-amine
From 4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine, 2-mercaptoethylpyridine and DBU in DME. ES-MS m/e (%): 299 (M+H+, 100), 194 (98), 106 (70).

reactant | 4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine | O1C(=CC=C1)C1=NC(=NC(=C1)S(=O)C)N | C9H9N3O2S
reactant | 2-mercaptoethylpyridine | SCCC1=NC=CC=C1 | C7H9NS
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 4-Furan-2-yl-6-(2-pyridin-2-yl-ethylsulfanyl)-pyrimidin-2-yl-amine | O1C(=CC=C1)C1=NC(=NC(=C1)SCCC1=NC=CC=C1)N | C15H14N4OS
